US08119809B2
To a solution of 1-(4-(trifluoromethyl)phenyl)-piperidin-4-ol (0.1 g, 0.4 mmol) in anhydrous DMF, NaH (60% in mineral oil, 18 mg, 0.45 mmol) was added. The mixture was allowed to stir at room temperature under N2 atmosphere for 10 min, followed by the addition of 6-chloro-N-(1-(pyridin-4-ylmethyl)piperidin-4-yl)picolinamide (0.15 g, 0.4 mmol). The resulting reaction mixture was then stirred with heating at 105° C. overnight. A significant amount of starting material was still present and hence, an additional amount of NaH was added (82 mg, 2.1 mmol). The reaction mixture was allowed to stir at 105° C. for an additional 8 h, and quenched with saturated sodium bicarbonate solution (20 mL). The aqueous layer was extracted with ethyl acetate (3×20 mL), and the combined organic layer was washed with water (2×20 mL) and brine (1×20 mL), dried (MgSO4), filtered and concentrated to give a yellow residue. Column chromatography (100% CH2Cl2→3% MeOH/CH2Cl2) provided a yellow solid, which upon trituration with ethyl ether, yielded N-(1-(pyridin-4-ylmethyl)piperidin-4-yl)-6-(1-(4-(trifluoromethyl)phenyl)piperidin-4-yloxy)picolinamide as a tan solid (54 mg, 25%). 1H NMR (CD3OD) δ 8.53 (d, J=4.1 Hz, 2H), 8.28 (d, J=7.4 Hz, 1H), 7.80 (t, J=7.7 Hz, 1H), 7.65 (d, J=7.2 Hz, 1H), 7.51 (d, J=4.1 Hz, 2H), 7.46 (d, J=8.5 Hz, 2H), 7.05 (d, J=8.3 Hz, 2H), 6.96 (d, J=8.3 Hz, 1H), 5.43 (br s, 1H), 4.10-3.95 (m, 1H), 3.90 (s, 2H), 3.77-3.56 (m, 2H), 3.23-2.98 (m, 3H), 2.71-2.57 (m, 2H), 2.23-1.81 (m, 9H). MS (m/z): 540 (M+H)+.

reactant | 1-(4-(trifluoromethyl)phenyl)-piperidin-4-ol | 0.4 mmol, 0.1 g | FC(C1=CC=C(C=C1)N1CCC(CC1)O)(F)F | C12H14F3NO
reactant | NaH | 0.45 mmol, 18 mg | [H-].[Na+]
reactant | 6-chloro-N-(1-(pyridin-4-ylmethyl)piperidin-4-yl)picolinamide | 0.4 mmol, 0.15 g | ClC1=CC=CC(=N1)C(=O)NC1CCN(CC1)CC1=CC=NC=C1 | C17H19ClN4O
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | DMF | CN(C)C=O | C3H7NO
solvent | ethyl ether | C(C)OCC | C4H10O
solvent | MeOH CH2Cl2 | CO.C(Cl)Cl
product | N-(1-(pyridin-4-ylmethyl)piperidin-4-yl)-6-(1-(4-(trifluoromethyl)phenyl)piperidin-4-yloxy)picolinamide | 54 mg, 25% | N1=CC=C(C=C1)CN1CCC(CC1)NC(C1=NC(=CC=C1)OC1CCN(CC1)C1=CC=C(C=C1)C(F)(F)F)=O | C29H32F3N5O2
